US07435837B2
Treatment of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (13.80 g, 0.036 mol) with hydrogen bromide (200 mL, 30 wt. % in acetic acid) generally according to the procedure described for Intermediate 46 afforded 11.7 g (80%) of (±)-(5-chloro-7-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 135-137° C.; Anal. calcd. for C17H17ClO5S: C, 55.36; H, 4.65. Found: C, 54.35; H, 4.52.

reactant | (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.036 mol, 13.80 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC2=C(C1)C=C(C=C2OC)Cl)C | C18H19ClO5S
solvent | hydrogen bromide | 200 mL | Br | BrH
product | (±)-(5-chloro-7-hydroxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 11.7 g, 80% | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC2=C(C1)C=C(C=C2O)Cl)C | C17H17ClO5S
